US04391821
17 g 7-hydroxy-3-phenyl-3,4-dihydro-2H-1-benzopyrane, 0.1 cm3 piperidine and 100 cm3 1-chloro-2,3-epoxypropane were stirred for 6 hours at a temperature of 90° C. The solution was evaporated under reduced pressure, the residue was dissolved in 150 cm3 benzene and the obtained solution was extracted twice with 25--25 cm3 saturated sodium carbonate solution. The benzene phase was separated from the precipitated resin, clarificated with charcoal, filtered and evaporated. Crystallizing the residue from methanol, 15 g pure crystalline 1,2-epoxy-3-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-propane was obtained (m.p. 117°-119° C.).

reactant | 7-hydroxy-3-phenyl-3,4-dihydro-2H-1-benzopyrane | 17 g | OC1=CC2=C(CC(CO2)C2=CC=CC=C2)C=C1 | C15H14O2
reactant | piperidine | 0.1 cm3 | N1CCCCC1 | C5H11N
reactant | 1-chloro-2,3-epoxypropane | 100 cm3 | ClCC1CO1 | C3H5ClO
product | 1,2-epoxy-3-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-propane | 15 g | O1CC1COC1=CC2=C(CC(CO2)C2=CC=CC=C2)C=C1 | C18H18O3
